US09079853B2
3-hydroxy-3-((5-methoxypyridin-2-yl)methyl)-5-methyl-1-phenethylindolin-2-one
This compound was prepared in an analogous manner to 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one using 5-methyl-1-phenethylindoline-2,3-dione and 5-methoxy-2-methylpyridine (purchased from Aldrich). 1H-NMR δ 8.29 (d, 1H), 7.34 (m, 2H), 7.25 (m, 3H), 7.18 (dd, 1H), 7.07 (dd, 1H), 6.90 (d, 1H), 6.80 (s, 1H), 6.71 (d, 1H), 5.3 (bs, OH), 3.98 (dt, 1H), 3.91 (s, 3H), 3.81 (dt, 1H), 3.05 (d, 2H), 2.97 (t, 2H), 2.27 (s, 3H). Calculated mass for C24H24N2O3, 388.18. Observed 389.2 (M+1).

reactant | 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one | BrC=1C(=NC=CC1)CC1(C(N(C2=CC=C(C=C12)C)CCC(C)C)=O)O | C20H23BrN2O2
reactant | 5-methyl-1-phenethylindoline-2,3-dione | CC=1C=C2C(C(N(C2=CC1)CCC1=CC=CC=C1)=O)=O | C17H15NO2
reactant | 5-methoxy-2-methylpyridine | COC=1C=CC(=NC1)C | C7H9NO
product | 3-hydroxy-3-((5-methoxypyridin-2-yl)methyl)-5-methyl-1-phenethylindolin-2-one | OC1(C(N(C2=CC=C(C=C12)C)CCC1=CC=CC=C1)=O)CC1=NC=C(C=C1)OC | C24H24N2O3
